US05589478
To a solution of 2-mercaptoethanol (1.31 g) in dimethylacetamide (15 ml) is added sodium hydride (62.3% dispersion-type, 520 mg) under argon atmosphere. Five minutes later, to the mixture is added 4-tert-butyl-N-{6-chloro-5-(3-methoxyphenoxy)pyrimidin-4-yl}benzenesulfonamide (1.5 g), and the mixture is reacted under argon atmosphere at 70° C. for two hours, at 100° C. for three hours, and further reacted at 130° C. for two hours. The reaction solution is treated with hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol=70:1), and recrystallized from ethyl acetate/n-hexane to give 4-tert-butyl-N-{6-(2-hydroxyethylthio)-5-(3-methoxyphenoxy)pyrimidin-4-yl}benzenesulfonamide (1.14 g) as crystals.

reactant | 2-mercaptoethanol | 1.31 g | SCCO | C2H6OS
reactant | sodium hydride | 520 mg | [H-].[Na+]
reactant | 4-tert-butyl-N-{6-chloro-5-(3-methoxyphenoxy)pyrimidin-4-yl}benzenesulfonamide | 1.5 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)Cl | C21H22ClN3O4S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | 4-tert-butyl-N-{6-(2-hydroxyethylthio)-5-(3-methoxyphenoxy)pyrimidin-4-yl}benzenesulfonamide | 1.14 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)SCCO | C23H27N3O5S2
